US05130119
(b) 2-[N-(2,4,6-trifluorophenyl)sulfamoyl]-acetic acid-[2,3,4-trihydroxy-butylamide]
2.22 g (6 mmol) of 2-[N-(2,4,6-trifluorophenyl)sulfamoyl]-acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethyl-amide] is dissolved in a mixture of 10 ml of methanol and 5 ml of water, about 100 mg of cation exchanger Amberlyst 15 is added and it is warmed to boiling temperature in 1 hour. The ion exchanger is then filtered off and the filtrate is evaporated to dryness in a vacuum. 1.94 g (5.24 mmol) =87.3% of the theoretical yield of the product is obtained as an amorphous solid.

reactant | 2-[N-(2,4,6-trifluorophenyl)sulfamoyl]-acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethyl-amide] | 6 mmol, 2.22 g | OC(CNC(CS(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O)C1OC(OC1)(C)C | C15H19F3N2O6S
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-[N-(2,4,6-trifluorophenyl)sulfamoyl]-acetic acid-[2,3,4-trihydroxy-butylamide] | OC(CNC(CS(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O)C(CO)O | C12H15F3N2O6S
